US05576313
Step 2: Preparation of N-t-Butoxycarbonyl-4-methoxymethyl-4-(2-methylbenzyl)piperidine
To a 0° C. suspension of sodium hydride (19 mg, 0.80 mmol) in 1.5 ml of THF, was added a solution of N-t-butoxycarbonyl-4-hydroxymethyl-4-(2-methylbenzyl)piperidine (200 mg, 0.63 mmol) in 1 ml THF. The mixture was allowed to warm to room temp. To this suspension was added 0.35 ml of anhydrous DMSO and the mixture was heated to 60° C. and stirred 5 h until the solution was almost homogeneous. The reaction mixture was allowed to cool to room temp. and to this solution was added methyl iodide (0.070 ml, 1.12 mmol). The resulting heterogeneous mixture was stirred at room temp. overnight. The reaction mixture was treated with 10% aqueous citric acid and extracted with ether (3×). The combined ether extracts were washed successively with saturated aqueous NaHCO3 and brine, dried (MgSO4), and concentrated in vacuo to a yellow gum. Purification by column chromatography on silica with 9% EtOAc/hexane as eluent afforded the product as a colorless gum.

reactant | sodium hydride | 0.80 mmol, 19 mg | [H-].[Na+]
reactant | N-t-butoxycarbonyl-4-hydroxymethyl-4-(2-methylbenzyl)piperidine | 0.63 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC1=C(C=CC=C1)C)CO | C19H29NO3
reactant | methyl iodide | 1.12 mmol, 0.070 ml | CI | CH3I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | DMSO | 0.35 ml | CS(=O)C | C2H6OS
product | N-t-Butoxycarbonyl-4-methoxymethyl-4-(2-methylbenzyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC1=C(C=CC=C1)C)COC | C20H31NO3
